US09415047B2
Preparation of 1-(3-(4-(3-methylphenyl)piperazine-1-yl)butyl)-1H-benzotriazole (I-39)
1-(3-chloropropyl)-1H-benzotriazole (7.02 g, 0.036 mol) was dissolved into 100 ml of acetonitrile, 3-methyl phenylpiperazine (5.3 g, 0.03 mol), diisopropylethylamine (15.5 g, 0.12 mol) and potassium iodide (5.0 g, 0.03 mol) were respectively added. The mixture was stirred and mixed, then heated and refluxed to react for 15 hours. The mixture was cooled down to ambient temperature and filtered. The filtrate was concentrated to produce oily products, and treated by chromatography with neutral Al2O3 and purified, eluted with dichloromethane to produce 7.5 g compound (I-39) with a yield of 74.6%. ESI-MS [M+H]+: m/z 335.2.

reactant | 1-(3-chloropropyl)-1H-benzotriazole | 0.036 mol, 7.02 g | ClCCCN1N=NC2=C1C=CC=C2 | C9H10ClN3
reactant | 3-methyl phenylpiperazine | 0.03 mol, 5.3 g | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | diisopropylethylamine | 0.12 mol, 15.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.03 mol, 5.0 g | [I-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(3-(4-(3-methylphenyl)piperazine-1-yl)butyl)-1H-benzotriazole | 7.5 g, yield of 74.6% | CC=1C=C(C=CC1)N1CCN(CC1)C(CCN1N=NC2=C1C=CC=C2)C | C21H27N5
